Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
morphine / heparin / sirolimus
 
Attending: ___.
 
Chief Complaint:
umbilical hernia 
 
Major Surgical or Invasive Procedure:
___: laparoscopic umbilical hernia repair 

 
History of Present Illness:
___ woman with polycystic kidney disease status post 
living related renal transplant in
___ who was found to have a bowel-containing umbilical hernia 
on a CT scan that was performed during workup of abdominal pain.
The decision was made for surgical repair.  Risks and benefits 
of the surgery were discussed.  Informed consent was obtained.
 
Past Medical History:
 ___ s/p renal transplant ___ at ___
Hx of HIT  
hypothyroidism
HTN
HLD
GERD
Squamous Cell Cancer of Skin
 
Social History:
___
Family History:
Multiple family members with ___
 
Physical Exam:
T98.7 HR78 BP155/95 99%RA
GEN: AOx3, NAD
CV: RRR
PULM: CTAB, breathing comfortably on room air 
GI: soft, mild distended, non-tender, incisions clean and dry, 
abdominal binder in place
EXT: WWP, no CCE 
 
Brief Hospital Course:
Ms. ___ underwent uncomplicated laparoscopic umbilical hernia 
repair on ___. The procedure was uncomplicated and she was 
extubated post-procedure. However, approximately twenty minutes 
after arrival to the PACU she developed audible inspiratory 
stridor and difficulty breathing. Her symptoms did not improve 
with racemic epinephrine or nebulizer treatment. The decision 
was made to reintubate her for acute hypoxic respiratory 
failure. During fiberoptic intubation, there was noted hypo 
mobility of the vocal cords. Re-intubaiton was successful. There 
was no evidence of allergic reaction nor additional pathology 
noted.

ENT was consulted, who recommend re-extubation with airway teams 
available. The patient was successfully extubated the same 
evening. She had a normal fiberoptic exam at time of extubation.

Fiberoptic Exam:
In the context of the patient's clinical presentation and the
need to visualize the regions in close proximity, the decision
was made to proceed with an endoscopic exam.  Accordingly, after
verbal consent and topical lidocaine with oxymetazoline
anesthesia, the fiberoptic scope was passed to visualize the
regions of concern.  The findings were:
Normal nasal cavity, no pus or polyps
Normal nasopharynx, no masses
Normal oropharynx
Epiglottis crisp
Supraglottic area normal
Arytenoid complexes mobile bilaterally/symetrically
True vocal folds symmetric and mobile bilaterally, no masses, no
erythema
Pyriform sinuses clear
No significant pooling of secretions

The patient was weaned from supplemental oxygen. On POD#1 she 
was feeling well, out of bed and ambulating with appropriate 
saturations on room air. She was discharged home on POD#1. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Sodium Bicarbonate 650 mg PO BID 
3. ClonazePAM 0.5 mg PO QHS:PRN insomnia 
4. Pravastatin 20 mg PO QPM 
5. Sirolimus 1.5 mg PO DAILY 
6. Tacrolimus 1.5 mg PO Q12H 
7. Multivitamins 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Aspirin 81 mg PO DAILY 
10. Hydrochlorothiazide 12.5 mg PO DAILY 
11. Levothyroxine Sodium 88 mcg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
We recommend over the counter acetaminophen, max dose 2g/day.  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
3.  Aspirin 81 mg PO DAILY  
4.  ClonazePAM 0.5 mg PO QHS:PRN insomnia  
5.  Hydrochlorothiazide 12.5 mg PO DAILY  
6.  Levothyroxine Sodium 88 mcg PO DAILY  
7.  Lisinopril 20 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Pantoprazole 40 mg PO Q24H  
10.  Pravastatin 20 mg PO QPM  
11.  Sirolimus 1.5 mg PO DAILY 
Daily dose to be administered at 6am  
12.  Sodium Bicarbonate 650 mg PO BID  
13.  Tacrolimus 1.5 mg PO Q12H  
14.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
umbilical hernia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital following your laparoscopic 
umbilical hernia repair. After the procedure, you had difficulty 
breathing in the post-anesthesia care unit and you were 
re-intubated. There was no evidence of allergy or anatomic 
defect after you were examined by the ENT team. You were 
extubated uneventfully by anesthesia and ENT. You are now ready 
for discharge. 

Please call Dr. ___ office at ___ for fever > 101, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain, pain not controlled by your pain medication, 
swelling of the abdomen or ankles, worsening yellowing of the 
skin or eyes, itching, inability to tolerate food, fluids or 
medications, or any other concerning symptoms.
.
No lifting more than 10 pounds
.
No driving if taking narcotic pain medication
.
Please continue to wear your abdominal binder when out of bed 
and ambulating. 

We recommend starting stool softeners after surgery. We 
recommend considerating milk of magnesia, Colace, senna; all can 
be purchased at your local drug store.
 
Followup Instructions:
___